* Mercedes R129 Car-Side Diagnostic Channel Equivalent Model
* Models one blink-code output pin on the X11 16-pin diagnostic connector
*
* Electrical behavior:
*   - Internal pull-up to battery voltage through R_pullup (~680 Ohm)
*   - Open-collector NPN transistor driven by ECU firmware
*   - When blinking: pin pulled to ~0.2V for 0.3-0.5s, released for 0.3-0.5s
*   - Harness resistance and cable capacitance included
*
* The blink pattern is generated by a PULSE source driving the NPN base.
* For parametric simulations, the pulse timing can be overridden.
*
* Pins:
*   DIAG_PIN  - The diagnostic output pin (at the X11 connector)
*   CAR_GND   - Vehicle chassis ground
*   BLINK_CTL - External control: apply 5V pulse to trigger a blink

.subckt CAR_DIAG_CHANNEL DIAG_PIN CAR_GND BLINK_CTL
+ params: VBAT=12.0 R_PULL=680 R_WIRE=1.0 C_CABLE=500p

* Battery source (ignition-on supply)
V_bat bat_node CAR_GND DC {VBAT}

* Internal ECU pull-up resistor
R_pullup bat_node ecu_out {R_PULL}

* Open-collector output transistor inside the ECU
* Base driven by BLINK_CTL through a current-limiting resistor
R_base BLINK_CTL base_node 1k
Q_ecu ecu_out base_node CAR_GND Q_ECU_NPN
.model Q_ECU_NPN NPN(Is=1e-14 Bf=200 Vaf=100 Rb=10 Rc=1
+  Cjc=5p Cje=5p Tf=1n Tr=10n Ikf=100m)

* Harness wiring from ECU to X11 connector
R_wire ecu_out wire_mid {R_WIRE}
* Cable parasitic capacitance
C_cable wire_mid CAR_GND {C_CABLE}
* Final connection to the diagnostic pin
R_contact wire_mid DIAG_PIN 0.1

.ends CAR_DIAG_CHANNEL

* ============================================================
* Blink Pattern Generator
* ============================================================
* Generates a sequence of N blinks for testing.
* Uses a PULSE source: each blink is 0.4s HIGH, 0.4s LOW.
* The total pattern for N blinks = N * 0.8s, then pause ~2.5s.
*
* For simple single-code testing, use a standard PULSE source
* in the testbench directly. This subcircuit is for reference.
*
* Pins: OUT  GND
* Parameters: N_BLINKS (number of pulses), T_ON, T_OFF, T_PAUSE

.subckt BLINK_GENERATOR OUT GND
+ params: V_DRIVE=5.0 T_ON=0.4 T_OFF=0.4 T_PAUSE=2.5 N_BLINKS=3

* Simple repeating pulse for a continuous blink pattern
* Period = N_BLINKS * (T_ON + T_OFF) + T_PAUSE
* This generates a continuous square wave; the testbench clips it
* to the desired number of blinks using PWL or behavioral sources.
V_blink OUT GND PULSE(0 {V_DRIVE} 0.1 1m 1m {T_ON} {T_ON + T_OFF})

.ends BLINK_GENERATOR

* ============================================================
* Static Glow Model
* ============================================================
* Models the "static glow" condition seen on pins 9, 11, 12
* where the module holds the diagnostic pin at an intermediate voltage.
* This could be caused by a partially-conducting output stage,
* a failed pull-up, or an internal fault holding the line mid-rail.
*
* Pins: DIAG_PIN  CAR_GND

.subckt CAR_STATIC_GLOW DIAG_PIN CAR_GND
+ params: VBAT=12.0 R_HIGH=680 R_LOW=680

* Battery source
V_bat bat_node CAR_GND DC {VBAT}

* Resistive divider holding pin at approximately VBAT * R_LOW / (R_HIGH + R_LOW)
R_high bat_node DIAG_PIN {R_HIGH}
R_low DIAG_PIN CAR_GND {R_LOW}

* Small parasitic capacitance
C_par DIAG_PIN CAR_GND 200p

.ends CAR_STATIC_GLOW
