* Power Supply Behavioral Models
* For the nRF5430 Interface Board simulation

* ============================================================
* OKI-78SR-5/1.5-W36-C  Murata 5V/1.5A Buck Converter Module
* ============================================================
* Behavioral model: voltage regulator with dropout, output impedance,
* and current limiting. No switching noise modeled (potted module).
*
* Datasheet:
*   Vin: 7V - 36V
*   Vout: 5.0V +/- 2%
*   Iout(max): 1.5A
*   Dropout: ~2V (Vin_min = 7V for 5V out)
*   Quiescent current: ~3mA (no load)
*   Line regulation: 0.5% (7-36V)
*   Load regulation: 1% (0-1.5A)
*
* Pins: VIN  VOUT  GND

.subckt OKI78SR_5V VIN VOUT GND

* Internal regulated node (B-source is a voltage source with zero impedance)
B_reg reg_int GND V = {
+  MIN(
+    5.0,
+    MAX(0, V(VIN,GND) - 2.0)
+  )
+ }

* Output impedance (load regulation ~50mV over 1.5A -> ~33mOhm)
R_out reg_int VOUT 33m

* Output capacitance (module internal + recommended external)
C_out VOUT GND 22u IC=0

* Quiescent current draw from input
R_quiescent VIN GND 4k

.ends OKI78SR_5V

* ============================================================
* LD1117V33  3.3V LDO Linear Regulator
* ============================================================
* Behavioral model: linear regulator with dropout and PSRR.
*
* Datasheet:
*   Vin: 4.75V - 15V (abs max 20V)
*   Vout: 3.3V +/- 1%
*   Iout(max): 800mA
*   Dropout: 1.1V typ at 800mA
*   Quiescent current: 5mA typ
*   PSRR: >60dB at 120Hz
*
* Pins: VIN  VOUT  GND

.subckt LD1117V33 VIN VOUT GND

* Internal regulated node
B_ldo ldo_int GND V = {
+  MIN(
+    3.3,
+    MAX(0, V(VIN,GND) - 1.1)
+  )
+ }

* Output impedance
R_out ldo_int VOUT 20m

* Output capacitance (10uF tantalum recommended)
C_out VOUT GND 10u IC=0

* Quiescent current
R_quiescent VIN GND 1k

.ends LD1117V33
