* TLP521 Generic Optocoupler SPICE Model
* Based on Toshiba TLP521-4 datasheet parameters:
*   Vf(typ) = 1.15V, If(max) = 50mA
*   CTR = 50-600% at If=5mA, Vce=5V (typ ~100%)
*   tr = 4us, tf = 3us (typ)
*   Vceo = 55V, Ic(max) = 50mA
*
* Architecture: IR LED -> current sense -> RC delay -> base drive -> NPN phototransistor
* The base current is scaled so that Ic = CTR * If when the NPN is in active region.
* In saturation the NPN naturally limits Vce to ~0.2V.
*
* Pins: A_anode  K_cathode  C_collector  E_emitter

.subckt TLP521 A K C E params: CTR=1.0

* --- Input Stage: IR LED ---
D_led A K_sense D_IR_LED
.model D_IR_LED D(Is=1e-14 N=1.8 Rs=5 Bv=5 Ibv=100u Cjo=15p)

* Zero-volt source in series with LED cathode to measure forward current
V_sense K_sense K 0

* --- Coupling Stage: Optical transfer with finite delay ---
* Convert LED current to a proportional voltage for the delay network
B_iled ctrl_raw 0 V = { I(V_sense) }
* RC delay: tau = 10k * 200p = 2us (models tr=4us, tf=3us)
R_delay ctrl_raw ctrl_filt 10k
C_delay ctrl_filt 0 200p IC=0

* --- Output Stage: NPN Phototransistor ---
* Base current = CTR * If / Bf so that Ic = Bf * Ib = CTR * If
* V(ctrl_filt) carries the LED current value (in amps)
G_base 0 B_int VALUE = { V(ctrl_filt) * CTR / 200 }
Q_photo C B_int E Q_PHOTO_NPN
.model Q_PHOTO_NPN NPN(Is=1e-12 Bf=200 Rb=100 Rc=10
+  Cjc=5p Cje=10p Tf=3n Tr=50n Vaf=100 Ikf=50m)

.ends TLP521
